US03989689
The mixture of 3.8 g of 8-chloro-1-n-butyl-2,3,4,5-tetrahydro-1-benzazepine-2,5-dione-4-carboxylic acid methyl ester, 1.17 g of 2-aminothiazole and 70 ml of toluene is distilled for 20 hours so that after collecting 25 ml of toluene each, this amount is returned to the reaction mixture. It is finally concentrated to a small volume, the resulting suspension cooled with ice, filtered and the residue recrystallized from chloroform-acetonitrile, to yield the 8-chloro-1-n-butyl-4-(2-thiazolylcarbamoyl)-2,3,4,5-tetrahydro-1-benzazepine-2,5-dione melting at 238° to 240°.

reactant | 8-chloro-1-n-butyl-2,3,4,5-tetrahydro-1-benzazepine-2,5-dione-4-carboxylic acid methyl ester | 3.8 g | COC(=O)C1CC(N(C2=C(C1=O)C=CC(=C2)Cl)CCCC)=O | C16H18ClNO4
reactant | 2-aminothiazole | 1.17 g | NC=1SC=CN1 | C3H4N2S
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 8-chloro-1-n-butyl-4-(2-thiazolylcarbamoyl)-2,3,4,5-tetrahydro-1-benzazepine-2,5-dione | ClC1=CC2=C(C(C(CC(N2CCCC)=O)C(NC=2SC=CN2)=O)=O)C=C1 | C18H18ClN3O3S
